US05550134
(+)-(4aR)-(10bR)-4,10b-dimethyl-8-(3-chlorophenylthio) -1,2,3,4,-4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 612 mg portion of (4aR)-(10bR)-10b-methyl-8-(3-chlorophenylthio)-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]-quinolin-3-one was methylated with methyl iodide substantially as shown in Example 95. Attempts at crystallization of the product were unsuccessful, so it was characterized as an opaque colorless oil, 525 mg. FDMS: m/e=371. α[D]589 =+72.9, α[D]365 =+265.2 (chloroform).

reactant | (4aR)-(10bR)-10b-methyl-8-(3-chlorophenylthio)-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]-quinolin-3-one | C[C@@]12CCC(N[C@@H]2CCC2=C1C=CC(=C2)SC2=CC(=CC=C2)Cl)=O | C20H20ClNOS
reactant | methyl iodide | CI | CH3I
product | (+)-(4aR)-(10bR)-4,10b-dimethyl-8-(3-chlorophenylthio) -1,2,3,4,-4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)SC3=CC(=CC=C3)Cl)C)=O | C21H22ClNOS
